US06489476B1
A solution of 3-(tert-butyl-diphenylsilyloxy)-1-propanol (1 mmole) in methylene chloride (7 mL) was treated with powder molecular sieves (4 A, 0.5 equiv. wt/wt) and pyridinium chlorochromate (1.5 mmole) at 0° C. The resulting mixture was stirred at room temperature for 2 h, and diluted with diethyl ether (7 mL) and stirred at room temperature for another 30 min. Filtration, evaporation and chromatography gave 3-(tert-butyldiphenylsilyloxy)-1-propanal as a clear oil.

reactant | 3-(tert-butyl-diphenylsilyloxy)-1-propanol | 1 mmole | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCCCO | C19H26O2Si
reactant | pyridinium chlorochromate | 1.5 mmole | [Cr](=O)(=O)([O-])Cl.[NH+]1=CC=CC=C1
solvent | methylene chloride | 7 mL | C(Cl)Cl | CH2Cl2
solvent | diethyl ether | 7 mL | C(C)OCC | C4H10O
product | 3-(tert-butyldiphenylsilyloxy)-1-propanal | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCCC=O | C19H24O2Si
